US05708018
5,6-dimethoxy-2(pyrrolidino)indan (A-3, Chart A).
To a solution of 5,6-dimethoxy-2-aminoindan (Preparation 5, 4.5 mmol) in dimethylformamide/acetonitrile (1:6, 49 mL) was added sodium carbonate (1.43 g, 13.5 mmol) and was heated (100° C.) overnight. The mixture was diluted with ethyl acetate, filtered and the filtrate concentrated. The oily residue was chromatographed (400 g silica gel) eluting with methylene chloride/methanol (9:1) to yield a yellow oil. The oil was converted into the HCl salt and recrystallized from methanol/ethyl acetate: mp 267°-269° C.

reactant | 5,6-dimethoxy-2-aminoindan | 4.5 mmol | COC=1C=C2CC(CC2=CC1OC)N | C11H15NO2
reactant | sodium carbonate | 13.5 mmol, 1.43 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | HCl | Cl | ClH
solvent | dimethylformamide acetonitrile | 49 mL | CN(C=O)C.C(C)#N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5,6-dimethoxy-2(pyrrolidino)indan | COC=1C=C2CC(CC2=CC1OC)N1CCCC1 | C15H21NO2
